US04525476
A solution of 7.0 g (0.05 mol) of dihydro-1H-3,5(2H,6H) dioxopyrrolizidine in 150 ml of acetonitrile is treated with 14.5 g (0.1 mol) L-alanine 1,1-dimethylethyl ester. The mixture is refluxed 24 hours. The solution is concentrated at reduced pressure and the resulting oil is chromatographed over silica gel using elution with 2.5% methanol in dichloromethane. After concentration at reduced pressure the oil is rechromatographed over silica gel using 19:1 dichloromethane:methanol. The eluate is concentrated at reduced pressure and heated at 80° C. to yield N-[1-oxo-3-(5-oxo-2-pyrrolidinyl)propyl]-L-alanine, 1,1-dimethylethyl ester as an analytically pure oil with the following characteristic proton NMR spectrum: 1H-NMR(CDCL3) 1.35 (d, 3H), 1.5 (s, 9H), 1.5-2.4 (m, 9H), 3.5-3.8 (m, 1H), 4.4 (m, 1H), 6.6-6.8 (m, 1H), 7.4-7.6 (m, 1H).

reactant | L-alanine 1,1-dimethylethyl ester | 0.1 mol, 14.5 g | CC(C)(C)OC([C@@H](N)C)=O | C7H15NO2
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-[1-oxo-3-(5-oxo-2-pyrrolidinyl)propyl]-L-alanine, 1,1-dimethylethyl ester | O=C(CCC1NC(CC1)=O)N[C@@H](C)C(=O)OC(C)(C)C | C14H24N2O4
